US04297350
17β-Methoxy-2α-methyl-5α-androstan-3-one oxime (I)
A mixture of 17β-methoxy-2α-methyl-5α-androstan-3-one (Acta. Endocrinology 36, 83 (1961), 0.5 g.), hydroxylamine hydrochloride (0.218 g.) and sodium acetate (0.258 g.) in ethanol (20 ml.) is refluxed for 1 hour. Water is then added; a precipitate forms which is filtered, washed, dried and recrystallized from methylene chloride-acetone to give the title compound, m.p. 203°-211°; IR (mull) 3360 and 1650 cm-1 ; MS (me) 333; NMR (CDCl3) 0.75, 0.93, 1.06, 3.15 and 3.33 δ.

reactant | 17β-methoxy-2α-methyl-5α-androstan-3-one | 0.5 g | CO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC([C@@H](C[C@]3(C)[C@H]1CC2)C)=O | C21H34O2
reactant | hydroxylamine hydrochloride | 0.218 g | Cl.NO
reactant | sodium acetate | 0.258 g | C(C)(=O)[O-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 17β-Methoxy-2α-methyl-5α-androstan-3-one oxime | CO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC([C@@H](C[C@]3(C)[C@H]1CC2)C)=NO | C21H35NO2
